US09278922B2
N,N-bis(4-nitrobenzyl)propan-2-amine
A mixture of bis(4-nitrobenzyl)amine (50 mg, 0.174 mmol) and acetone (51.1 μL, 0.696 mmol) in methanol (752 μL)/acetic acid (39.6 μL)/CH2Cl2 (79 μL) was stirred at room temperature for 1 hour. The reaction was cooled to 0° C. and sodium cyanoborohydride (32.8 mg, 0.522 mmol) was added. The mixture was stirred at 0° C. for 1 hour, and allowed to warm to rt and stirred overnight. The reaction was concentrated and the residue was partitioned between EtOAc and saturated aqueous NaHCO3. The organic layer was washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. Purification by flash chromatography (silica gel, 50% EtOAc/hexane) afforded the title product (42.8 mg, 75%). MS (ESI) m/z 329.9 (M+H)+.

reactant | bis(4-nitrobenzyl)amine | 0.174 mmol, 50 mg | [N+](=O)([O-])C1=CC=C(CNCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H13N3O4
reactant | acetone | 0.696 mmol, 51.1 μL | CC(=O)C | C3H6O
reactant | acetic acid | 39.6 μL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.522 mmol, 32.8 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 752 μL | CO | CH4O
solvent | CH2Cl2 | 79 μL | C(Cl)Cl | CH2Cl2
product | N,N-bis(4-nitrobenzyl)propan-2-amine | 42.8 mg, 75% | [N+](=O)([O-])C1=CC=C(CN(C(C)C)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H19N3O4
